Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with h/o HTN, Afib not on warfarin presenting with 3 weeks 
of progressive SOB. Patient was hospitalized ___ for AF with 
RVR at which time he was started on metoprolol and lasix was 
held.  Patient has some difficulty remembering exact time course 
of his symptoms, but, per his daughter, he has had lower 
extremity swelling and progressive SOB for approximately 3 weeks 
with acute worsening in the last ___ days. Denies chest pain, 
orthopnea, PND. He has been eating soup with every meal at his 
assisted living facility and making an effort to drink more 
fluids due to concerns that he was dehydrated. Reports 
occasional episodes of palpitations with activity. Review of 
symptoms significant for 2 mechanical falls in the last week as 
well as burning dysuria. No fever/chills/sweats. 

Was brought to ED by his daughter after he called her yesterday 
with complaint of SOB while attempting to do his laundry. In the 
ED, initial vitals were 98.6 125 130/94 12 98% 2L. Labs were 
significant for neg trop, proBNP 2724, lactate 1.1 and UA with 
65 RBC and 11 WBC.EKG showed aflutter with nonvariable rate at 
124.  CXR showed bilateral pleural effusions. He was given 20mg 
IV lasix with 700ml UOP and transferred to ___ for further 
management. 

 
Past Medical History:
1. Thrombocytopenia. Per outpatient ___ note baseline is in 
50,000s x many years.  
2. Depression.  
3. Essential tremor.  
4. Diarrhea.  
5. Prostate cancer s/p radiation treatment.  
6. Hypertension.  
7. Benign prostatic hypertrophy.  
8. Ankle edema.  
9. Memory disorder.  

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS: T 98.1 129/97 122 20 99 2L 80.1 kg
GENERAL: thin elderly male in NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP to mid neck at 90 degrees.
CARDIAC: tachycardic, normal S1, S2. +S3
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. + bibasilar crackles
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: 2+ pitting edema to upper thighs bilaterally 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
.
DISCHARGE PHYSICAL EXAM:
VS: Tm 98.1 133-152/81-105 HR 59-115 (highest HR 101 on 
telemetry) 95-97% RA
I/O: 1000/1725
weight: 65.3kg
GENERAL: thin elderly male in NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: no JVP elevation at 90 degrees
CARDIAC: tachycardic, normal S1, S2. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. + bibasilar crackles
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: 2+ pitting edema to upper thighs bilaterally 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+

 
Pertinent Results:
ADMISSION LABS:
___ 10:30PM   D-DIMER-1408*
___ 07:40PM   GLUCOSE-114* UREA N-31* CREAT-1.2 SODIUM-143 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-31 ANION GAP-11
___ 07:40PM   cTropnT-0.02*
___ 07:40PM   CALCIUM-8.3* PHOSPHATE-3.9 MAGNESIUM-2.1
___ 10:10AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 10:10AM URINE  RBC-65* WBC-11* BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 07:11AM   LACTATE-1.1
___ 06:58AM   GLUCOSE-107* UREA N-31* CREAT-1.2 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-106 TOTAL CO2-29 ANION GAP-11
___ 06:58AM   cTropnT-<0.01
___ 06:58AM   proBNP-2724*
___ 06:58AM   WBC-4.7 RBC-3.51* HGB-11.6* HCT-37.5* 
MCV-107* MCH-33.2* MCHC-31.0 RDW-14.1
___ 06:58AM   NEUTS-76.1* LYMPHS-14.2* MONOS-6.9 EOS-2.4 
BASOS-0.4
___ 06:58AM   PLT COUNT-66*
___ 06:58AM   ___ PTT-37.2* ___

DISCHARGE LABS:
___ 07:35AM BLOOD WBC-4.8 RBC-3.87* Hgb-12.4* Hct-40.2 
MCV-104* MCH-32.0 MCHC-30.8* RDW-14.5 Plt Ct-94*
___ 07:40PM BLOOD cTropnT-0.02*
___ 07:10AM BLOOD cTropnT-0.02*
___ 07:15AM BLOOD Mg-2.1
___ 07:10AM BLOOD TSH-5.9*
___ 07:15AM BLOOD Glucose-89 UreaN-42* Creat-1.4* Na-145 
K-3.9 Cl-106 HCO3-33* AnGap-10
___ 07:15AM BLOOD Glucose-89 UreaN-42* Creat-1.4* Na-145 
K-3.9 Cl-106 HCO3-33* AnGap-10

IMAGING/STUDIES:
ECG ___
Probable sinus tachycardia. Right bundle-branch block. 
Non-specific ST-T wave changes. Compared to the previous tracing 
of ___ the patient is now in sinus rhythm.  TRACING #1 

CXR ___
1. Mild cardiomegaly with pleural effusions, left greater than 
right, and 
bibasilar atelectasis.   
2. Fullness of the superior mediastinum, which may be consistent 
with a 
substernal goiter.  Correlation with physical exam is 
recommended. 
  
TTE ___
The left atrium is dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is severely 
depressed (LVEF = 25 %) secondary to severe global; hypokinesis 
with posterior wall akinesis. The right ventricular free wall 
thickness is normal. Right ventricular chamber size is normal. 
with severe global free wall hypokinesis. The aortic root is 
mildly dilated at the sinus level. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Mild (1+) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. There is a very small pericardial effusion 
without evidence of tamponade. 

Compared with the findings of the prior study (images reviewed) 
of ___, contractile function of the left and right 
ventricle is markedly reduced.  

___ ECG
Sinus tachycardia. Occasional atrial premature contractions. 
Compared to 
tracing #1 there is no significant diagnostic change. TRACING #2 


CTA Chest ___
COMPARISON:  PA and lateral chest radiograph from ___. 

  
TECHNIQUE:  Axial helical MDCT images were obtained from the 
suprasternal 
notch to the upper abdomen at an early arterial phase after 
administration of 
100 cc of Visipaque following a PE protocol.  Coronal, sagittal, 
and oblique 
MIP reformats were generated in an independent workstation. 
  
DLP:  591.79 mGy-cm. 
CTDI:  26.47 mGy. 
  
FINDINGS: 
  
THORAX CTA:  The aorta is well opacified.  There are significant 

atherosclerotic calcifications of the aorta, but no aneurysmal 
dilatation, 
intramural hematoma, or aortic dissection.  The pulmonary 
arteries are well 
opacified through the subsegmental level. There is no dilatation 
of the main 
pulmonary trunk. No filling defects are noted in the pulmonary 
arteries to 
suggest pulmonary embolism. Coronary artery calcifications are 
extensive. The 
heart appears enlarged. 
  
CHEST CT:  The airways are patent to the subsegmental level.  
There is no 
central or axillary lymphadenopathy. There is trace pericardial 
fluid, which 
is non-hemorrhagic.  No esophageal abnormalities noted.   
  
Lung windows demonstrate no focal opacities, but there are 
moderate bilateral pleural effusions, right worse than left, 
with concurrent bibasilar atelectasis. 
  
There is intraperitoneal fluid.  No gross abnormalities of the 
spleen or liver are observed on limited evaluation.  The kidneys 
cannot be accurately assessed due to phase of contrast, but a 
large cyst is noted in the upper pole of the right kidney that 
appears simple. 
  
OSSEOUS STRUCTURES:  There are no lytic or blastic lesions 
concerning for 
malignancy. 
  
IMPRESSION: 
1.  No pulmonary embolism or acute aortic syndrome. 
2.  Moderate bilateral pleural effusions with concurrent 
bibasilar 
atelectasis. Small volume ascites in the visualized abdomen. 
3.  No focal parenchymal opacity or evidence of pulmonary edema. 

 

 
Brief Hospital Course:
___ with h/o HTN, mild sCHF (LVEF = 50-55% ___ presenting 
with several weeks of progressive SOB and signs of gross volume 
overload on exam.

# Acute on chronic systolic CHF: Patient presented with 
shortness of breath and gross volume overload in the setting of 
rapid aflutter (120s on admission) and discontinuation of 
diuretic on prior admission. TTE ___ showed LVEF of 25%, 
reduced compared to prior EF 50-55% on prior TTE ___. Based 
on patient's lack of palpitations, tachycardia may have been 
persistent for several weeks ( as suggested by HR 120s in recent 
clinic visits), suggesting tachycardia induced cardiomyopathy. 
Rate was controlled as described below and patient was diuresed 
with IV lasix boluses with good response. He was weaned off of 
supplemental O2 and weight was noted to decrease by 15kg from 
admission. Transitioned to PO torsemide morning of ___. 

# Atrial flutter: Admitted with atrial flutter @ 120s. CHADS2. 
Patient reported intermittent sx of palpitations in preceding 
weeks but was asymptomatic throughout admission. PE considered 
as possible trigger- low risk by Well's Criteria, D-dimer 
elevated 1408 but CTA chest negative for PE. Digoxin intitiated 
___, home metoprolol dose increased and rates were 
subsequently well controlled. 

___: Baseline Cr appears to be 1.3-1.5. Cr increased to 1.8 ___ 
in the setting of diuresis, but subsequently decreased to 1.4 
and remained stable.

# Dysuria: Patient reported some dysuria and had mild suprapubic 
tenderness to palpation on admission exam. He was started 
empirically on bactrim on admission which was discontinued after 
urine culture returned negative.

# Hematuria:  Noted to have hematuria and passing clots via 
foley ___. Urine output and HCT remained stable. Urine 
subsequently became more clear without intervention. Foley 
removed ___ when transitioned to PO diuretic and patient had no 
difficulty voiding. 

# HTN: Blood pressures well controlled this admission on beta 
blocker. 

# Depression: Was in very good spirits this admission, denied 
depressed mood, SI/HI. Continued home SSRIs.

TRANSITIONAL ISSUES:
# Hematuria: Will need repeat UA at follow up to ensure 
resolution
# ___: Will need volume status monitored as outpatient and PO 
torsemide adjusted accordingly
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Paroxetine 10 mg PO DAILY 
2. Terazosin 10 mg PO HS 
3. Aspirin 81 mg PO DAILY 
4. Metoprolol Succinate XL 37.5 mg PO DAILY 
5. Citracal + D *NF* (calcium phosphate-vitamin D3) 250 mg 
calcium- 250 unit Oral daily 
6. Mirtazapine 7.5 mg PO HS 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Mirtazapine 7.5 mg PO HS 
3. Paroxetine 10 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Lisinopril 2.5 mg PO DAILY 
6. Torsemide 20 mg PO DAILY 
7. Terazosin 10 mg PO HS 
8. Citracal + D *NF* (calcium phosphate-vitamin D3) 250 mg 
calcium- 250 unit Oral daily 
9. Digoxin 0.0625 mg PO DAILY 
10. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Atrial flutter
Acute on chronic systolic CHF (EF 25%)

Secondary:
Hypertension
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure participating in your care at ___. You were 
admitted to the hospital for shortness of breath and found to 
have a fast heart rate and extra fluid in your body. You were 
treated with medications and your symptoms improved. Please 
follow up with the heart failure doctor as scheduled and note 
the changes to your home medications on the enclosed list.
 
Followup Instructions:
___